**********************************************************
* THIS FILE IS GENERATED BY AIVALANCHE
* FILE ID: 2
* SIMULATION TYPE: dc_sweep
**********************************************************

* Define the temperature
.TEMP 120.0

* Include the dut file
.INCLUDE /home/gazi/Desktop/Work/custom_packages/aivalanche/aivalanche_app/src/aivalanche_app/data_store/projects/project_1.gazi.5ce9039e-e488-419b-92e8-c95a713c4994/common/model_files/dut_1.cir

** Start testbenches

********************* dut testbench 0_2 *********************
e_v_0_2 p_0_2 0 v_sweep 0 1
v_meas_0_2 n_0_2 0 0
x_0_2 p_0_2 n_0_2 dut area=2e-06 m=1.0
*************************************************************

** End testbenches

* Declare the v_sweep, which will change during the simulation.
v_sweep v_sweep 0 0

********** Start of control section **********
.control

** Model parameters start
alterparam dut bv = 4679077459378923.0
alterparam dut ibv = 0.0010542469996592896
alterparam dut ikf = 2.683423841658422e-05
alterparam dut ikr = 0.039712100264853195
alterparam dut is = 9.69462610367199e-16
alterparam dut jsw = 7.171094291724582e-19
alterparam dut n = 1.717959696977731
alterparam dut nbv = 0.48977289435346205
alterparam dut rs = 1.0059573533537658e-06
alterparam dut trs1 = 0.004704443850910511
alterparam dut trs2 = 0.0005471545023057517
reset
** Model parameters end

** Declare the vectors to save.
save v(p_0_2) i(v_meas_0_2)

** Run the dc sweep analysis.
dc v_sweep -0.2 3.5 0.1

** Save the output to file.
set wr_vecnames
set wr_singlescale
wrdata /home/gazi/Desktop/Work/custom_packages/aivalanche/aivalanche_app/src/aivalanche_app/data_store/projects/project_1.gazi.5ce9039e-e488-419b-92e8-c95a713c4994/models/model_1.0e00713a-4f68-42d4-9653-2a40c98c558f/calibration_26_07_2024-23_33_30/simulation_files/dc_sweep_2.csv v(p_0_2) i(v_meas_0_2)

.endc
********** End of control section **********

.end